US09260375B2
To a solution of dimethyl 2-[4-(t-butyldimethylsilyloxy)benzyl]-3-isopropylmaleate (823 mg, 2.02 mmol) in tetrahydrofuran (13 mL) was added a 1 M tetrabutylammonium fluoride-tetrahydrofuran solution (2.1 mL, 2.1 mmol) at room temperature, and the mixture was left standing at room temperature for 1 h. The reaction mixture was directly concentrated under reduced pressure and the residue thus obtained was subjected to silica gel column chromatography (hexane-ethyl acetate 2:1) to give 592 mg of 2-(4-hydroxybenzyl)-3-isopropylmaleic acid dimethyl ester as a solid (quantitative).

reactant | dimethyl 2-[4-(t-butyldimethylsilyloxy)benzyl]-3-isopropylmaleate | 2.02 mmol, 823 mg | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C/C(/C(=O)OC)=C(/C(=O)OC)\C(C)C)C=C1 | C22H34O5Si
reactant | tetrabutylammonium fluoride tetrahydrofuran | 2.1 mmol, 1 M, 2.1 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.O1CCCC1
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | tetrahydrofuran | 13 mL | O1CCCC1 | C4H8O
product | 2-(4-hydroxybenzyl)-3-isopropylmaleic acid dimethyl ester | 592 mg | COC(\C(=C(/C(=O)OC)\C(C)C)\CC1=CC=C(C=C1)O)=O | C16H20O5
